US06653346B1
A mixture of 2-(4-hydroxy-2,3-dimethyl-phenoxy)-1-phenyl-ethanone (1.2 g, 4.70 mmol) and polyphosphoric acid (ca. 100 mg) in xylene (10 mL) was stirred at 150° C. for 5 h. The mixture was poured into water, extracted with ethylacetate, washed and dried to give 6,7-dimethyl-3-phenyl-benzofuran-5-ol (560 mg) as a light brown solid. 1H NMR (CDCl3, 300 MHz) δ: 7.71 (s, 1H), 7.60-7.20 (m, 5H), 7.06 (s, 1H), 4.76 (s, 1H, OH), 2.47, 2.29 (2s, 6H) ppm. 13C NMR (CDCl3, 75 MHz), δ: 150.43, 150.30, 141.15, 132.58, 129.00, 127.32, 123.48, 122.13, 121.31, 120.59, 102.25, 12.31, 11.95 ppm. MS (m/z): 239 (M+H+).

reactant | 2-(4-hydroxy-2,3-dimethyl-phenoxy)-1-phenyl-ethanone | 4.70 mmol, 1.2 g | OC1=C(C(=C(OCC(=O)C2=CC=CC=C2)C=C1)C)C | C16H16O3
reactant | water | O | H2O
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-dimethyl-3-phenyl-benzofuran-5-ol | 560 mg | CC1=C(C2=C(C(=CO2)C2=CC=CC=C2)C=C1O)C | C16H14O2
